US05457104
c) Diethyl (3-chloro-2,4-difluorobenzoyl)malonate
3.9 g (0.16 mol) of magnesium are introduced into 8.6 ml of ethanol, and the reaction is started up using carbon tetrachloride. A solution of 23.1 g (0.144 mol) of diethyl malonate in 16.3 ml of ethanol is added dropwise at an internal temperature of 50°-60° C. in such a manner that the temperature is maintained. The mixture is subsequently stirred for one hour at 60° C. A solution of 31.3 g (0.148 mol) of 3-chloro-2,4-difluorobenzoyl chloride in 16 ml of toluene is then added dropwise at -10° to -5° C., and stirring is continued for one hour at 0° C. and subsequently overnight while the mixture comes to room temperature. The reaction mixture is poured into ice-water, acidified using 10 ml of concentrated sulphuric acid and extracted using toluene. The toluene phase is washed using saturated sodium chloride solution, and the solvent is removed in vacuo.

reactant | magnesium | 0.16 mol, 3.9 g | [Mg] | Mg
reactant | diethyl malonate | 0.144 mol, 23.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-chloro-2,4-difluorobenzoyl chloride | 0.148 mol, 31.3 g | ClC=1C(=C(C(=O)Cl)C=CC1F)F | C7H2Cl2F2O
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 16.3 ml | C(C)O | C2H6O
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 8.6 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Diethyl (3-chloro-2,4-difluorobenzoyl)malonate | ClC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC1F)F | C14H13ClF2O5
